US04710507
6-Cyano-2-methoxyquinoline (0.368 g) and tri-n-butyltin azide (0.73 g) were heated together at 110° for 18 hours to afford 2-methoxy-6-(1-tributylstannyl-(1H)-tetrazol-5-yl)quinoline as a crude oil which was not purified further but was used directly in the preparation of 6-(tetrazol-5-yl)-2-(1H)-quinolone (see Example 43).

reactant | 6-Cyano-2-methoxyquinoline | 0.368 g | C(#N)C=1C=C2C=CC(=NC2=CC1)OC | C11H8N2O
reactant | tri-n-butyltin azide | 0.73 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
product | 2-methoxy-6-(1-tributylstannyl-(1H)-tetrazol-5-yl)quinoline | COC1=NC2=CC=C(C=C2C=C1)C1=NN=NN1[Sn](CCCC)(CCCC)CCCC | InChI=1S/C11H8N5O.3C4H9.Sn/c1-17-10-5-3-7-6-8(2-4-9(7)12-10)11-13-15-16-14-11;3*1-3-4-2;/h2-6H,1H3;3*1,3-4H2,2H3;/q-1;;;;+1
